US07727979B2
2-bromo-3-methyl-cyclohexanone (Starting Product for Example C-71)
A solution of N-bromosuccinimide (0.48 mmol) and sodium acetate (0.04 mmol) in THF/water (1:1, 5.2 ml) is cooled to 0° C. and trimethyl-(3-methyl-cyclohex-1-enyloxy)-silane (0.4 mmol, 80% pure) is added dropwise. The reaction mixture is heated to room temperature and stirring is continued overnight. After addition of water extraction is carried out with ethyl acetate. The title compound is obtained from the combined organic phases after drying over sodium sulphate and evaporating-off of the solvent in a vacuum (JOC 1997, 62, 19, 6692-6696).

reactant | N-bromosuccinimide | 0.48 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium acetate | 0.04 mmol | C(C)(=O)[O-].[Na+]
reactant | trimethyl-(3-methyl-cyclohex-1-enyloxy)-silane | 0.4 mmol | C[Si](OC1=CC(CCC1)C)(C)C | C10H20OSi
reactant | water | O | H2O
solvent | THF water | 5.2 ml | C1CCOC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-3-methyl-cyclohexanone | BrC1C(CCCC1C)=O | C7H11BrO
